US04372952
Ethyl 2-(2-aminothiazol-4-yl)-2-(4-chlorobenzyloxyimino)acetate (syn isomer, 21.15 g.), 1 N sodium hydroxide aqueous solution (94 ml.), 1-methylimidazole (1.02 g.), methanol (220 ml.) and tetrahydrofuran (150 ml.) were treated in a similar manner to that of Example P-(4) to give 2-(2-aminothiazol-4-yl)-2-(4-chlorobenzyloxyimino)acetic acid (syn isomer, 10.13 g.).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-2-(4-chlorobenzyloxyimino)acetate | 21.15 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC1=CC=C(C=C1)Cl | C14H14ClN3O3S
reactant | sodium hydroxide | 1 N, 94 ml | [OH-].[Na+]
reactant | 1-methylimidazole | 1.02 g | CN1C=NC=C1 | C4H6N2
reactant | methanol | 220 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(2-aminothiazol-4-yl)-2-(4-chlorobenzyloxyimino)acetic acid | 10.13 g | NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)Cl | C12H10ClN3O3S
